US05192642
1a) 1-Trimethylsiloxy-2,4-difluorobenzene
In a 2.51 sulfation flask, 260.2 g (2.0 mol) of 2,4-difluorophenol and 242.9 g (2.4 mol) of triethylamine are dissolved in 700 ml of dichloromethane and cooled to 0° C. 239 g (2.2 mol) of trimethylchlorosilane are added dropwise in the course of about 3 hours. The white suspension is allowed to react to completion for 8 hours (check using GC and TLC). The suspension is filtered, the residue is washed with a little dichloromethane, and the filtrate is evaporated on a rotary evaporator. The oil obtained is distilled at 56°-62° C. in vacuo (22 mbar). 280 g of a clear, colourless liquid are obtained.

reactant | 2,4-difluorophenol | 2.0 mol, 260.2 g | FC1=C(C=CC(=C1)F)O | C6H4F2O
reactant | triethylamine | 2.4 mol, 242.9 g | C(C)N(CC)CC | C6H15N
reactant | trimethylchlorosilane | 2.2 mol, 239 g | C[Si](Cl)(C)C | C3H9ClSi
solvent | dichloromethane | 700 ml | ClCCl | CH2Cl2
product | 1-Trimethylsiloxy-2,4-difluorobenzene | C[Si](OC1=C(C=C(C=C1)F)F)(C)C | C9H12F2OSi
